US08252793B2
A mixture of benzyl 3-(4-acetamidopiperidin-1-yl)propanoate (3.81 g, 12.5 mmol) and Pd/C (10%, 0.20 g) in methanol (100 mL) was stirred under hydrogen atmosphere overnight. The solid was filtered and the filtrate was evaporated to give 3-(4-acetamidopiperidin-1-yl)propanoic acid (2.50 g). LCMS (+ESI) 215 (M+1).

reactant | benzyl 3-(4-acetamidopiperidin-1-yl)propanoate | 12.5 mmol, 3.81 g | C(C)(=O)NC1CCN(CC1)CCC(=O)OCC1=CC=CC=C1 | C17H24N2O3
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd/C | 0.20 g | [Pd] | Pd
product | 3-(4-acetamidopiperidin-1-yl)propanoic acid | 2.50 g | C(C)(=O)NC1CCN(CC1)CCC(=O)O | C10H18N2O3
